US07834043B2
imidazo[1,5-a]pyridine-3-carbaldehyde
To imidazo[1,5-a]pyridine (2.337 g, 19.78 mmol) in tetrahydrofuran (40 mL) was added n-butyl lithium (2.5 M in hexane, 15.76 mL, 39.4 mmol) at −40° C. The mixture was stirred at −40° C. for 3.5 hours, followed by the addition of dimethylformamide (3.1 mL, 40 mmol). The reaction mixture was stirred at 25° C. overnight and quenched with water. The mixture was then partitioned between dichloromethane (80 mL) and water (15 mL). The organic phase layer was dried with anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude material was purified by chromatography eluting with 0-50% ethyl acetate/dichloromethane to give the title compound (1.78 g, 62% yield).

reactant | imidazo[1,5-a]pyridine | 19.78 mmol, 2.337 g | C=1N=CN2C1C=CC=C2 | C7H6N2
reactant | n-butyl lithium | 39.4 mmol, 2.5 M, 15.76 mL | C(CCC)[Li]
reactant | dimethylformamide | 40 mmol, 3.1 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | imidazo[1,5-a]pyridine-3-carbaldehyde | 1.78 g, 62% yield | C=1N=C(N2C1C=CC=C2)C=O | C8H6N2O
